US05541195
(2R*,4S*)-2-Benzyl-1-((R)-N-acetyl-phenylalanyl)N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine
200 mg 0.348 mmol) of the mixture of (2R*,4S*)-2-benzyl-1-((R)-phenylalanyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine diastereomers are reacted with 39 μl (0.417 mmol) of acetic anhydride in analogy to Example 31. The title compound is obtained as mixture of diastereomers (white foam). TLC: methylene chloride/methanol/conc. ammonia (1000:50:1) Rf =0.28, FD-MS: M+ =616.

reactant | (2R*,4S*)-2-benzyl-1-((R)-phenylalanyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12)C([C@H](N)CC1=CC=CC=C1)=O | C33H33F3N4O2
reactant | acetic anhydride | 0.417 mmol, 39 μl | C(C)(=O)OC(C)=O | C4H6O3
product | (2R*,4S*)-2-Benzyl-1-((R)-N-acetyl-phenylalanyl)N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12)C([C@H](NC(C)=O)CC1=CC=CC=C1)=O | C35H35F3N4O3
